US04481142
9-Chloro-2-methoxy-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine
To 25 ml of methanol was added 1.0 g (0.00279 mol) of 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine and 0.18 g (0.00335 mol) of sodium methoxide. The reaction was stirred for 18 hr, and evaporated to dryness. The solid was dissolved in 50 ml of dichloromethane and washed with 40 ml of water, dried and evaporated to dryness. The oil was crystallized and recrystallized from ether/petrol and then from ether to give white prisms, mp 137°-141° C.

reactant | 2,9-dichloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | 0.00279 mol, 1.0 g | ClC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F | C18H10Cl2FN3
reactant | sodium methoxide | 0.00335 mol, 0.18 g | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 9-Chloro-2-methoxy-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)OC)C=C1 | C19H13ClFN3O
